### PR TITLE
[Merged by Bors] - feat: more theorems on `ArchimedeanClass.stdPart`

### PR DESCRIPTION
**Pull request by vihdzp**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Ring/Archimedean.lean [hunk 1]
```diff
@@ -174,10 +174,18 @@ theorem mk_intCast {n : ℤ} (h : n ≠ 0) : mk (n : S) = 0 := by
...
   · exact mk_map_of_archimedean' ⟨Int.castRingHom S, fun _ ↦ by simp⟩ h
 
+theorem mk_intCast_nonneg (n : ℤ) : 0 ≤ mk (n : S) := by
+  obtain rfl | hn := eq_or_ne n 0
+  · simp
+  · rw [mk_intCast hn]
+
 @[simp]
 theorem mk_natCast {n : ℕ} : n ≠ 0 → mk (n : S) = 0 :=
   mod_cast mk_intCast (n := n)
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/Archimedean.lean:191]: Just realising: we do not have 
```
@[simp]
theorem mk_natCast {n : ℕ} [n.AtLeastTwo] : mk (ofNat(n) : S) = 0 :=
  mod_cast mk_intCast (n := n)
```
Mind adding?

File: Mathlib/Algebra/Order/Ring/StandardPart.lean [hunk 2]
```diff
@@ -91,12 +91,40 @@ theorem mk_neg {x : K} (h : 0 ≤ mk x) :
     -FiniteElement.mk x h = FiniteElement.mk (-x) (by rwa [mk_neg]) :=
   rfl
 
+@[simp]
+theorem mk_add {x y : K} (hx : 0 ≤ mk x) (hy : 0 ≤ mk y) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/StandardPart.lean]:
```suggestion
theorem mk_add_mk {x y : K} (hx : 0 ≤ mk x) (hy : 0 ≤ mk y) :
```
Same below

File: Mathlib/Algebra/Order/Ring/StandardPart.lean [hunk 3]
```diff
@@ -91,12 +91,40 @@ theorem mk_neg {x : K} (h : 0 ≤ mk x) :
...
+
+@[simp]
+theorem mk_mul {x y : K} (hx : 0 ≤ mk x) (hy : 0 ≤ mk y) :
+    .mk x hx * .mk y hy = FiniteElement.mk (x * y) (add_nonneg hx hy) :=
+  rfl
+
+@[simp]
+theorem mk_le_mk_iff {x y : K} {hx : 0 ≤ mk x} {hy : 0 ≤ mk y} :
+    FiniteElement.mk x hx ≤ .mk y hy ↔ x ≤ y :=
+  .rfl
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/StandardPart.lean]: Do we really need the `_iff` here?
```suggestion
theorem mk_le_mk {x y : K} {hx : 0 ≤ mk x} {hy : 0 ≤ mk y} :
    FiniteElement.mk x hx ≤ .mk y hy ↔ x ≤ y :=
  .rfl
```

File: Mathlib/Algebra/Order/Ring/StandardPart.lean [hunk 4]
```diff
@@ -91,12 +91,40 @@ theorem mk_neg {x : K} (h : 0 ≤ mk x) :
...
+
+@[simp]
+theorem mk_lt_mk_iff {x y : K} {hx : 0 ≤ mk x} {hy : 0 ≤ mk y} :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/StandardPart.lean]: I would make those explicit for backwards rewriting:
```suggestion
theorem mk_lt_mk_iff {x y : K} (hx hy) :
```

File: Mathlib/Algebra/Order/Ring/StandardPart.lean [hunk 5]
```diff
@@ -91,12 +91,40 @@ theorem mk_neg {x : K} (h : 0 ≤ mk x) :
...
+    FiniteElement.mk x hx < .mk y hy ↔ x < y :=
+  .rfl
+
 theorem not_isUnit_iff_mk_pos {x : FiniteElement K} : ¬ IsUnit x ↔ 0 < mk x.1 :=
   Valuation.Integer.not_isUnit_iff_valuation_lt_one
 
 theorem isUnit_iff_mk_eq_zero {x : FiniteElement K} : IsUnit x ↔ mk x.1 = 0 := by
   rw [← not_iff_not, not_isUnit_iff_mk_pos, lt_iff_not_ge, x.2.ge_iff_eq']
 
+instance : Coe ℚ (FiniteElement K) where
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/StandardPart.lean]:
```suggestion
instance : RatCast (FiniteElement K) where
```
no?

File: Mathlib/Algebra/Order/Ring/StandardPart.lean [hunk 6]
```diff
@@ -91,12 +91,40 @@ theorem mk_neg {x : K} (h : 0 ≤ mk x) :
...
 theorem not_isUnit_iff_mk_pos {x : FiniteElement K} : ¬ IsUnit x ↔ 0 < mk x.1 :=
   Valuation.Integer.not_isUnit_iff_valuation_lt_one
 
 theorem isUnit_iff_mk_eq_zero {x : FiniteElement K} : IsUnit x ↔ mk x.1 = 0 := by
   rw [← not_iff_not, not_isUnit_iff_mk_pos, lt_iff_not_ge, x.2.ge_iff_eq']
 
+instance : RatCast (FiniteElement K) where
+  ratCast q := .mk q (mk_ratCast_nonneg q)
+
+@[simp] theorem mk_ratCast (q : ℚ) (h : 0 ≤ mk (q : K)) : FiniteElement.mk (q : K) h = q := rfl
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/StandardPart.lean]:
```suggestion
@[simp] theorem mk_ratCast (q : ℚ) : FiniteElement.mk (q : K) (mk_ratCast_nonneg q) = q := rfl
```
then your users don't have any proof obligation when rewriting backwards

File: Mathlib/Algebra/Order/Ring/StandardPart.lean [hunk 7]
```diff
@@ -255,6 +291,26 @@ theorem stdPart_of_mk_nonneg (f : FiniteResidueField K →+*o ℝ) (h : 0 ≤ mk
   congr
   exact Subsingleton.allEq _ _
 
+@[simp]
+theorem stdPart_eq_zero_iff {x : K} : stdPart x = 0 ↔ mk x ≠ 0 where
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/StandardPart.lean]: Maybe replace `stdPart_of_mk_ne_zero` with this iff?

File: Mathlib/Algebra/Order/Ring/StandardPart.lean [hunk 8]
```diff
@@ -255,6 +291,26 @@ theorem stdPart_of_mk_nonneg (f : FiniteResidueField K →+*o ℝ) (h : 0 ≤ mk
...
+  mpr := stdPart_of_mk_ne_zero
+  mp := by
+    contrapose!
+    intro h
+    rwa [stdPart_of_mk_nonneg default h.ge, map_ne_zero, FiniteResidueField.mk_ne_zero]
+
+theorem stdPart_ne_zero_iff {x : K} : stdPart x ≠ 0 ↔ mk x = 0 :=
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/StandardPart.lean]: Again, do we need the `_iff` here?

File: Mathlib/Algebra/Order/Ring/StandardPart.lean [hunk 9]
```diff
@@ -285,17 +341,31 @@ theorem stdPart_inv (x : K) : stdPart x⁻¹ = (stdPart x)⁻¹ := by
...
-theorem stdPart_sub (hx : 0 ≤ mk x) (hy : 0 ≤ mk y) :
-    stdPart (x - y) = stdPart x - stdPart y := by
+theorem stdPart_add_of_mk_neg_left (hx : 0 < mk x) : stdPart (x + y) = stdPart y := by
+  obtain hy | hy := le_or_gt 0 (mk y)
+  · rw [stdPart_add hx.le hy, stdPart_of_mk_ne_zero hx.ne', zero_add]
+  · rw [stdPart_of_mk_ne_zero hy.ne, stdPart_of_mk_ne_zero]
+    rw [mk_add_eq_mk_right (hy.trans hx)]
+    exact hy.ne
+
+theorem stdPart_add_of_mk_neg_right (hy : 0 < mk y) : stdPart (x + y) = stdPart x := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/StandardPart.lean]:
```suggestion
theorem stdPart_add_of_mk_pos_right (hy : 0 < mk y) : stdPart (x + y) = stdPart x := by
```
or
```suggestion
theorem stdPart_add_eq_left (hy : 0 < mk y) : stdPart (x + y) = stdPart x := by
```
Same above

File: Mathlib/Algebra/Order/Ring/StandardPart.lean (hunk 7 above)
Comment (vihdzp) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean]: The opposite is useful for rewriting, but I've merged both proofs and made `stdPart_of_mk_ne_zero` into an alias.

Comment (YaelDillies) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean]: But why not do `rw [stdPart_eq_zero.2 h]`?

File: Mathlib/Algebra/Order/Ring/StandardPart.lean [hunk 10]
```diff
@@ -81,22 +81,50 @@ instance : IsStrictOrderedRing (FiniteElement K) := by
...
-@[simp] theorem mk_natCast {n : ℕ} (h : 0 ≤ mk (n : K)) : FiniteElement.mk (n : K) h = n := rfl
-@[simp] theorem mk_intCast {n : ℤ} (h : 0 ≤ mk (n : K)) : FiniteElement.mk (n : K) h = n := rfl
+@[simp] theorem mk_zero : FiniteElement.mk (0 : K) (by simp) = 0 := rfl
+@[simp] theorem mk_one : FiniteElement.mk (1 : K) (by simp) = 1 := rfl
+@[simp] theorem mk_natCast (n : ℕ) : FiniteElement.mk (n : K) (mk_natCast_nonneg n) = n := rfl
+@[simp] theorem mk_intCast (n : ℤ) : FiniteElement.mk (n : K) (mk_intCast_nonneg n) = n := rfl
 
 @[simp]
 theorem mk_neg {x : K} (h : 0 ≤ mk x) :
     -FiniteElement.mk x h = FiniteElement.mk (-x) (by rwa [mk_neg]) :=
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/StandardPart.lean]: Whoops, this is misnamed:
```suggestion
theorem neg_mk (x : K) (h : 0 ≤ mk x) :
    -FiniteElement.mk x h = FiniteElement.mk (-x) (by rwa [mk_neg]) :=
```

File: Mathlib/Algebra/Order/Ring/StandardPart.lean [hunk 11]
```diff
@@ -81,22 +81,50 @@ instance : IsStrictOrderedRing (FiniteElement K) := by
...
   rfl
 
+@[simp]
+theorem mk_add_mk {x y : K} (hx hy) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Ring/StandardPart.lean]: I would make `x` and `y` explicit since `hx` and `hy` can be inferred from the LHS
```suggestion
theorem mk_add_mk (x y : K) (hx hy) :
```

File: Mathlib/Algebra/Order/Ring/StandardPart.lean (hunk 7 above)
Comment (vihdzp) [reply Mathlib/Algebra/Order/Ring/StandardPart.lean]: It feels a bit weird to be calling a single side of an iff in a `rw`, doesn't it? But I can deprecate the one-sided lemma if you really want.

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
